US06353017B1
To a solution of 3-methyl-L-phenylalanine (1.8 g, 10.06 mmol) and Na2CO3 (3.2 g, 3.0.18 mmol) in water (150 mL) is added a solution of diphenylacetyl chloride (2.32 g, 10.06 mmol) in THF (150 mL), and the resulting solution is stirred vigorously at room temperature overnight. The THF is then evaporated and the aqueous layer is diluted with 6% aqueous Na2CO3 (100 mL), and washed with Et2O (3×150 mL). The aqueous layer is then acidified to pH 1 with conc. HCl, and the resulting slurry is extracted with EtOAc (3×100 mL). The organic phase is then washed with water (2×100 mL) and brine (1×100 mL), dried over MgSO4 and evaporated to yield 3-methyl-N-(2,2-diphenylacetyl)-L-phenylalanine, as a white solid.

reactant | 3-methyl-L-phenylalanine | 10.06 mmol, 1.8 g | CC=1C=C(C[C@H](N)C(=O)O)C=CC1 | C10H13NO2
reactant | Na2CO3 | 3.2 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | diphenylacetyl chloride | 10.06 mmol, 2.32 g | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
solvent | water | 150 mL | O | H2O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 3-methyl-N-(2,2-diphenylacetyl)-L-phenylalanine | CC=1C=C(C[C@H](NC(C(C2=CC=CC=C2)C2=CC=CC=C2)=O)C(=O)O)C=CC1 | C24H23NO3
